US08003703B2
(iii) (2S)-2-[4-Chloro-2-(4-nitrophenoxy)phenoxy]-propanoic acid
To a solution of (2S)-2-(4-chloro-2-hydroxyphenoxy)-propanoic acid (0.216 g) and 1-fluoro-4-nitro-benzene (0.127 g) in NUT (3 ml) was added potassium carbonate (0.276 g) and the reaction heated at 90° C. for 2 h. After cooling to RT, water and diethylether were added. The aqueous layer was separated and extracted again with diethylether. The aqueous layer was isolated, acidified to pH 2 and extracted with diethylether. This later extract was dried and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with 30-50% ethylactate/isohexane+1% AcOH, yield 0.2 g

reactant | (2S)-2-(4-chloro-2-hydroxyphenoxy)-propanoic acid | 0.216 g | ClC1=CC(=C(O[C@H](C(=O)O)C)C=C1)O | C9H9ClO4
reactant | 1-fluoro-4-nitro-benzene | 0.127 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 0.276 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | diethylether | C(C)OCC | C4H10O
product | (2S)-2-[4-Chloro-2-(4-nitrophenoxy)phenoxy]-propanoic acid | ClC1=CC(=C(O[C@H](C(=O)O)C)C=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C15H12ClNO6
